US08053438B2
To a round bottomed flask was added 2-amino-3-methoxybenzoic acid (2.2705 g, 13.58 mmol), diphenyl phosphorazidate (3.51 mL, 16.30 mmol), and triethylamine (3.79 mL, 27.2 mmol) in THF to stir at 80° C. Upon completion the reaction was allowed to cool to room temperature. Solvent was evaporated. The residue was taken up in DCM. The reaction mixture was diluted with water and extracted with DCM. A white precipitate was noted to form during extraction The solid was filtered to provide 4-methoxy-1H-benzo[d]imidazol-2(3H)-one. [M+H]=165.0.

reactant | 2-amino-3-methoxybenzoic acid | 13.58 mmol, 2.2705 g | NC1=C(C(=O)O)C=CC=C1OC | C8H9NO3
reactant | diphenyl phosphorazidate | 16.30 mmol, 3.51 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
reactant | triethylamine | 27.2 mmol, 3.79 mL | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | 4-methoxy-1H-benzo[d]imidazol-2(3H)-one | COC1=CC=CC=2NC(NC21)=O | C8H8N2O2
